US04234477
(b) Ac-Phe-Arg OEt.HOAC
0.829 g (4 mmols) of N-acetyl-L-phenylalanine are dissolved in 40 ml of dimethylformamide. 1.10 g (4 mmols) of finely powdered L-arginine ethyl ester dihydrochloride, 0.56 ml (4 mmols) of triethylamine and 0.69 g (6 mmols) of N-hydroxysuccinimide are added and the mixture is cooled to -15° C. After adding 0.91 g (4.4 mmols) of dicyclohexylcarbodiimide, the mixture is stirred at -5° C. for 7 hours, at 5° C. overnight and at room temperature for 5 hours. The precipitate is filtered off and the solution is concentrated almost to dryness in vacuo on a rotary evaporator. After taking up the residue in 80 ml of water, the pH of the solution is adjusted to 6.0 with triethylamine and the solution is discharged onto a column (1.5×40 cm) of Cm- "Sephadex" (Trade Mark) C-25, equilibrated with 0.05 M triethylammonium acetate of pH 6.0. Elution is carried out with a linear gradient increasing to 0.2 M triethylammonium acetate of pH 6.0 (720 ml; 50 ml/hour; size of fraction: 8 ml). Fractions 75-110, which, according to spotting on filter paper and spraying with Sakaguchi reagent, contains most of the eluted material, is lyophilised. 0.5 ml of ethanol is added to the combined residues and the product is precipitated with 60 ml of ethyl acetate. The precipitate is dried over phosphorus pentoxide in a desiccator.

reactant | N-acetyl-L-phenylalanine | 4 mmols, 0.829 g | C(C)(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C11H13NO3
reactant | L-arginine ethyl ester dihydrochloride | Cl.Cl.C(C)OC([C@@H](N)CCCNC(N)=N)=O
reactant | triethylamine | 4 mmols, 0.56 ml | C(C)N(CC)CC | C6H15N
reactant | N-hydroxysuccinimide | 6 mmols, 0.69 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dicyclohexylcarbodiimide | 4.4 mmols, 0.91 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | Ac-Phe-Arg OEt | CCOC(=O)[C@H](CCCN=C(N)N)NC(=O)[C@H](CC1=CC=CC=C1)NC(=O)C | C19H29N5O4
